US08431604B2
190.2 N-(2,6-dimethoxybenzyl)-N′-(4-methyl-1,3-oxazole-2-yl)guanidine acetate
0.20 g (0.85 mmol) N-cyano-N′-(2,6-dimethoxybenzyl)guanidine were suspended in 20 ml methanol/water (1:1). Subsequently, 63.3 mg (0.85 mmol) hydroxyacetone were added and the mixture was heated to 40° C. The pH-value was adjusted at high temperature with 1 N HCl to 2.5-3 pH. In total, the reaction mixture was heated for 34 hours at 40° C. under constant pH-control until no further educts could be detected by mass spectrometry. The methanol was distilled off under vacuum and a white solid remained which was purified by HPLC (Merck: Chromolith RP-18E, 100-25; eluent water/acetonitrile/0.1 molar acetic acid); 64 mg.

reactant | N-cyano-N′-(2,6-dimethoxybenzyl)guanidine | 0.85 mmol, 0.20 g | C(#N)NC(=N)NCC1=C(C=CC=C1OC)OC | C11H14N4O2
reactant | hydroxyacetone | 0.85 mmol, 63.3 mg | OCC(C)=O | C3H6O2
reactant | HCl | 1 N | Cl | ClH
solvent | methanol water | 20 ml | CO.O
product | N-(2,6-dimethoxybenzyl)-N′-(4-methyl-1,3-oxazole-2-yl)guanidine acetate | C(C)(=O)O.COC1=C(CNC(=N)NC=2OC=C(N2)C)C(=CC=C1)OC | InChI=1S/C14H18N4O3.C2H4O2/c1-9-8-21-14(17-9)18-13(15)16-7-10-11(19-2)5-4-6-12(10)20-3;1-2(3)4/h4-6,8H,7H2,1-3H3,(H3,15,16,17,18);1H3,(H,3,4)
